US07629466B2
esterifying the ethyl 6-((3S,4R)-4-(diphenylamino)-3-methoxypiperidin-1-yl)hexanoate with (R)-quinuclidine-3-ol to yield (R)-quinuclidine-3-yl 6-((3S,4R)-4-(diphenylamino)-3-methoxypiperidin-1-yl)hexanoate

reactant | ethyl 6-((3S,4R)-4-(diphenylamino)-3-methoxypiperidin-1-yl)hexanoate | C1(=CC=CC=C1)N([C@H]1[C@H](CN(CC1)CCCCCC(=O)OCC)OC)C1=CC=CC=C1 | C26H36N2O3
reactant | (R)-quinuclidine-3-ol | N12C[C@@H](C(CC1)CC2)O | C7H13NO
product | (R)-quinuclidine-3-yl 6-((3S,4R)-4-(diphenylamino)-3-methoxypiperidin-1-yl)hexanoate | C1(=CC=CC=C1)N([C@H]1[C@H](CN(CC1)CCCCCC(=O)O[C@H]1CN2CCC1CC2)OC)C2=CC=CC=C2 | C31H43N3O3
